US09216980B2
Step 3: 5-(5-Ethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)-2-fluoro-6′-(1-methyl-1H-pyrazol-4-yl)-[3,4′]bipyridinyl-3′-ylamine
A degassed mixture of 6′-chloro-5-(5-ethyl-4,5,6,7-tetrahydro thieno[3,2-c]pyridin-2-yl)-2-fluoro-[3,4′]bipyridinyl-3′-ylamine (1.05 g, 2.70 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (842 mg, 4.10 mmol), 1,1′-[bis(diphenylphosphino)ferrocene]dichloropalladium(II) (221 mg, 0.27 mmol) in 1N aqueous potassium fluoride solution (9 mL) and acetonitrile (9 mL) was heated under microwave irradiation at 120° C. for 20 minutes. The cooled reaction mixture was diluted with ethyl acetate (100 mL) then washed with water (75 mL). The organic phase was dried over sodium sulfate, filtered and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 40 g column, ISCO, 0-10% methanol in DCM) to afford the title compound as a white solid (641 mg, 55%). NMR (CDCl3 plus CD3OD, 300 MHz): 8.44 (dd, J=2.5, 1.1 Hz, 1H), 8.13 (d, J=0.6 Hz, 1H), 8.07 (dd, J=8.7, 2.5 Hz, 1H), 7.89 (s, 1H), 7.85 (d, J=0.8 Hz, 1H), 7.32 (s, 1H), 7.12 (s, 1H), 3.94 (s, 3H), 3.61 (s, 2H), 3.00-2.94 (m, 2H), 2.93-2.85 (m, 2H), 2.68 (q, J=7.2 Hz, 2H), 1.21 (t, J=7.2 Hz, 3H).

reactant | 6′-chloro-5-(5-ethyl-4,5,6,7-tetrahydro thieno[3,2-c]pyridin-2-yl)-2-fluoro-[3,4′]bipyridinyl-3′-ylamine | 2.70 mmol, 1.05 g | ClC1=CC(=C(C=N1)N)C=1C(=NC=C(C1)C1=CC=2CN(CCC2S1)CC)F | C19H18ClFN4S
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 4.10 mmol, 842 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
solvent | potassium fluoride | 1N, 9 mL | [F-].[K+]
solvent | acetonitrile | 9 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 5-(5-Ethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)-2-fluoro-6′-(1-methyl-1H-pyrazol-4-yl)-[3,4′]bipyridinyl-3′-ylamine | 641 mg, 55% | C(C)N1CC2=C(CC1)SC(=C2)C=2C=C(C(=NC2)F)C2=C(C=NC(=C2)C=2C=NN(C2)C)N | C23H23FN6S
